US04931436
5,11-Dihydro-11-[[4-[3-(1-piperidinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-[3-(1-piperidinyl)propyl]piperidine in a yield of 81% of theory. Colourless crystals, m.p. 200° C.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 4-[3-(1-piperidinyl)propyl]piperidine | N1(CCCCC1)CCCC1CCNCC1 | C13H26N2
product | 5,11-Dihydro-11-[[4-[3-(1-piperidinyl)propyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 81% | N1(CCCCC1)CCCC1CCN(CC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C26H33N5O2
